US04454120
N-methylmorpholine (485 mg.), then a solution of pivalyl chloride (579 mg.) in tetrahydrofuran (5 ml.), were added to a solution of N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosine in tetrahydrofuran (35 ml.) maintained at -20° C., and the mixture was stirred at that temperature for about 10 minutes. A solution of N-(3-phenylpropyl)-D-methioninamide (1.50 g.) and N-methylmorpholine (485 mg.) in tetrahydrofuran (60 ml.) was then added, and stirring was continued at -20° C. for two hours and then at room temperature overnight. Ethyl acetate (150 ml.) was added. The mixture was washed three times with saturated aqueous sodium bicarbonate, three times with aqueous citric acid (5%), twice with water and twice with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under vacuum. Crystallization of the residue from ethyl acetate-hexane afforded as a white solid [N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosyl]-N-(3-phenylpropyl)-D-methioninamide (680 mg.; m.r. 158°-159° C.; [α]D25 +55.4°, c=1 methanol).

reactant | N-methylmorpholine | 485 mg | CN1CCOCC1 | C5H11NO
reactant | pivalyl chloride | 579 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C18H27NO5
reactant | N-(3-phenylpropyl)-D-methioninamide | 1.50 g | C1(=CC=CC=C1)CCCNC([C@H](N)CCSC)=O | C14H22N2OS
reactant | N-methylmorpholine | 485 mg | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | [N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosyl]-N-(3-phenylpropyl)-D-methioninamide | 680 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@H](CCSC)C(=O)NCCCC1=CC=CC=C1 | C32H47N3O5S
